US06174874B1
Step 4 1-[3-(Benzyloxy)-2-[(benzyloxy)methyl]-2-(4-bromobenzyl)propyl]-4-(diethoxymethyl)benzene
A mixture of 2-(4-Bromobenzyl)-2-[4-(diethoxymethyl)benzyl]-1,3-propanediol(3 g, crude), benzyl bromide (3 mL), and NaH (1.2 g, 60% in mineral oil) in 30 mL of DMF was stirred for 14 h at 70° C. The mixture was then quenched with 5 mL of MeOH followed by 50 mL of saturated NH4Cl and extracted with 200 mL of 2:1 hexane/EtOAc. The extract was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography eluted with 15:1 hexane EtOAc containing 1% of Et3N to give 2.5 g of the title compound as an oil.

reactant | 2-(4-Bromobenzyl)-2-[4-(diethoxymethyl)benzyl]-1,3-propanediol | 3 g | BrC1=CC=C(CC(CO)(CO)CC2=CC=C(C=C2)C(OCC)OCC)C=C1 | C22H29BrO4
reactant | benzyl bromide | 3 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaH | 1.2 g | [H-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-[3-(Benzyloxy)-2-[(benzyloxy)methyl]-2-(4-bromobenzyl)propyl]-4-(diethoxymethyl)benzene | 2.5 g | C(C1=CC=CC=C1)OCC(CC1=CC=C(C=C1)C(OCC)OCC)(CC1=CC=C(C=C1)Br)COCC1=CC=CC=C1 | C36H41BrO4
